US06248885B1
tert-Butylisobutylamine
A mixture of tert-butylamine (10.97 g, 0.15 mol), isobutyl bromide (13.70 g, 0.1 mol), adiponitrile (10.81 g, 0.1 mol) and tetrabutylammonium iodide (1.85 g, 5 mmol) was refluxed with stirring for 12 hours. Aqueous 5 M potassium hydroxide (30 ml, 0.15 mmol) was added and the mixture was extracted with n-pentane (2×50 ml). Three layers were formed. Adiponitrile (the middle layer) was recovered. The pentane solution was dried over anhydrous magnesium sulfate and the product was isolated by distillation to yield 9.5 g, (74%), bp 45-47° C./40 mm Hg; 1H NMR (CDCl3) δ0.91 (d, J=6.5 Hz, 6H, CH3), 1.08 (s, 9H, CH3), 1.64 (sep, J=6.5 Hz, 1H, CH), 2.34 (d, J=6.5 Hz, 2H, CH2).

reactant | tert-butylamine | 0.15 mol, 10.97 g | C(C)(C)(C)N | C4H11N
reactant | isobutyl bromide | 0.1 mol, 13.70 g | C(C(C)C)Br | C4H9Br
reactant | adiponitrile | 0.1 mol, 10.81 g | C(CCCCC#N)#N | C6H8N2
reactant | potassium hydroxide | 0.15 mmol, 5 M, 30 ml | [OH-].[K+]
catalyst | tetrabutylammonium iodide | 5 mmol, 1.85 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | tert-Butylisobutylamine | C(C)(C)(C)NCC(C)C | C8H19N
